US07795489B2
The dimethylnaphthalene isomer mixture as a raw material introduced to the distillation column (1) for purification of low boiling point materials are a mixture comprising isomers rich in 1,5-DMN, and high boiling point and low boiling point hydrocarbons, which are produced from dehydrogenation of 1,5-DMT. Further, the mixture further comprises 2,6-DMN, 1,6-DMN, 1,5-DMN and other materials, which are recycled to a distillation column after separation and purification for crystallization, in the amounts as depicted in the following Table 1, respectively.

reactant | dimethylnaphthalene | CC1=C(C2=CC=CC=C2C=C1)C | C12H12
reactant | 1,5-DMN | CC1=CC=CC2=C1C=CC=C2C | C12H12
product | 1,5-DMT | CC1CCCC2=C1C=CC=C2C | C12H16
